US09260420B2
To a solution of 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1H-quinolin-2-one (0.85 g) synthesized in the same manner as in WO2006/112464 (Example 1) in dichloromethane (20 ml) was added iodomethyldodecanoate (1 g) synthesized in the same manner as in Reference Example 19, and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, ether was added and the mixture was left standing. The obtained crystals were collected by filtration to give 4-(benzo[b]thiophen-4-yl)-1-(dodecanoyloxymethyl)-1-(4-(2-oxo-1,2-dihydroquinolin-7-yloxy)butyl)piperazin-1-ium iodide (1.07 g).

reactant | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1H-quinolin-2-one | 0.85 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(NC1=C2)=O | C25H27N3O2S
reactant | iodomethyldodecanoate | 1 g | ICOC(CCCCCCCCCCC)=O | C13H25IO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(benzo[b]thiophen-4-yl)-1-(dodecanoyloxymethyl)-1-(4-(2-oxo-1,2-dihydroquinolin-7-yloxy)butyl)piperazin-1-ium iodide | 1.07 g | [I-].S1C2=C(C=C1)C(=CC=C2)N2CC[N+](CC2)(CCCCOC2=CC=C1C=CC(NC1=C2)=O)COC(CCCCCCCCCCC)=O | InChI=1S/C38H51N3O4S.HI/c1-2-3-4-5-6-7-8-9-10-16-38(43)45-30-41(25-22-40(23-26-41)35-14-13-15-36-33(35)21-28-46-36)24-11-12-27-44-32-19-17-31-18-20-37(42)39-34(31)29-32;/h13-15,17-21,28-29H,2-12,16,22-27,30H2,1H3;1H
